US05545734
Step 4A: α-(Dimethylphenylsilyl)benzenemethanol
A 38 cm fragment of lithium wire (3.2 mm diameter, 45 mg/cm, 1% sodium content, 0.244 mmole) was cut into 2 mm pieces with a razor blade in a glove bag that had been purged with argon. The fragments were placed in an oven-dried 250 mL round bottom flask and sealed under argon. Then 50 mL of dry THF was added and the mixture was stirred at -10° C. After 10 min. 17.3 mL (100 mmole) of chlorodimethylphenylsilane was added and the mixture was stirred at -10° C. under argon for 36-48 h, until metallation was complete. The cold, dark red solution was transferred by canula to a solution of 6.1 mL (60 mmole) of benzaldehyde in 100 mL of dry THF that had been cooled to -78° C. under argon. The solution was stirred at -78° C. for 45 min and allowed to warm to 0° C. for 30 min. Then it was recooled to -78° C. and quenched by addition of 10 mL of glacial acetic acid in 25 mL of dry THF. The pale yellow solution was partitioned between ether and saturated NH4Cl solution and the ether layer was washed with KHCO3, and brine, dried over MgSO4, and concentrated. The residue was purified by flash chromatography on silica gel (6 cm×30 cm) using 10% ether hexane to afford 11.50 g (79%) of the title compound as a colorless oil. Mass Spectrum (FAB) m/e 243 (M+H).

reactant | chlorodimethylphenylsilane | 100 mmole, 17.3 mL | Cl[Si](C1=CC=CC=C1)(C)C | C8H11ClSi
reactant | benzaldehyde | 60 mmole, 6.1 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | lithium | 0.244 mmole | [Li] | Li
product | α-(Dimethylphenylsilyl)benzenemethanol | 11.50 g, 79% | C[Si](C(O)C1=CC=CC=C1)(C1=CC=CC=C1)C | C15H18OSi
